US06288061B1
tert-Butyl 3-(4-acetoxymethylphenyl)-2-hydroxyimino-3-oxopropionate (19.2 g) and 1-naphthylmethylamine (11.3 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give tert-butyl 5-(4-acetoxymethylphenyl)-2-(1-naphthyl)-imidazole-4-carboxylate (10.5 g), melting point 162-164° C. (2) tert-Butyl 5-(4-acetoxymethylphenyl)-2-(1-naphthyl)imidazole-4-carboxylate (10.5 g) was reacted and treated in the same manner as in Example 31 to give 5-(4-acetoxymethylphenyl)-2-(1-naphthyl)-N-(2-thiazolyl)imidazole-4-carboxamide (6.62 g), melting point 197-199° C.

reactant | tert-Butyl 3-(4-acetoxymethylphenyl)-2-hydroxyimino-3-oxopropionate | 19.2 g | C(C)(=O)OCC1=CC=C(C=C1)C(C(C(=O)OC(C)(C)C)=NO)=O | C16H19NO6
reactant | 1-naphthylmethylamine | 11.3 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | tert-Butyl 5-(4-acetoxymethylphenyl)-2-(1-naphthyl)imidazole-4-carboxylate | 10.5 g | C(C)(=O)OCC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=CC2=CC=CC=C12)C(=O)OC(C)(C)C | C27H26N2O4
